US05128470
2.5 g of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylamine were dissolved in 50 ml of pyridine and treated at room temperature with a solution of 1.7 g of benzoyl chloride in 20 ml of tetrahydrofuran. After stirring at room temperature for two hours the reaction mixture was poured on to ice-water and, after acidification with 3N hydrochloric acid, extracted with ethyl acetate. The oil obtained after drying and evaporating the organic phase was crystallized from hexane/ethyl acetate and gave 3 g of N-(5,6,7,8-tetrahydro-5,5,8.8-tetramethyl-2-naphthyl)benzamide in white crystals, m.p. 146° C.-148° C.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylamine | 2.5 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)N)C | C14H21N
reactant | benzoyl chloride | 1.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(5,6,7,8-tetrahydro-5,5,8.8-tetramethyl-2-naphthyl)benzamide | 3 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)NC(C1=CC=CC=C1)=O)C | C21H25NO
